US05021431
N-[3-(Imidazol-4-yl)propyl]-N'-[2-[(5-methylimidazol-4-yl) methylthio]-1-propyl]-guanidine
0.76 g (1.92 mmol) of the previously prepared cyanoguanidine is heated under reflux for 2 hours in 30 ml of 18% hydrochloric acid. Concentration of the reaction mixture by evaporation under vacuum leaves 0.96 g of hygroscopic foam composed of equimolar quantities of ammonium chloride and N-[3-(imidazol-4-yl)propyl]-N'-[2-[(5-methylimidazol-4-yl)methylthio]-1-propyl]-guanidine trihydrochloride.

reactant | cyanoguanidine | C(#N)NC(=N)N | C2H4N4
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | N-[3-(imidazol-4-yl)propyl]-N'-[2-[(5-methylimidazol-4-yl)methylthio]-1-propyl]-guanidine trihydrochloride | Cl.Cl.Cl.N1C=NC(=C1)CCCNC(=N)NCC(C)SCC=1N=CNC1C
solvent | hydrochloric acid | 30 ml | Cl | ClH
product | N-[3-(Imidazol-4-yl)propyl]-N'-[2-[(5-methylimidazol-4-yl) methylthio]-1-propyl]-guanidine | N1C=NC(=C1)CCCNC(=N)NCC(C)SCC=1N=CNC1C | C15H25N7S
